US07582631B2
(S)-{4-[5-(5-Methyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine
A solution of 96 mg (0.23 mmol) {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine in 3 mL methanol was treated with 0.17 mL (2.3 mmol) formaldehyde (37% in water) and 150 mg (0.70 mmol) NaBH3(CN). The mixture was stirred at ambient temperature for 1 h when MS showed that all starting materials had converted to product. The reaction mixture was diluted with 50 mL DCM, washed with 50 mL satd. NaHCO3, and dried over anhydrous Na2SO4. After purification by HPLC, the title compound was obtained. MS (ES+): 426 (M+H)+.

reactant | {4-[5-(2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.23 mmol, 96 mg | C12N(CC(NC1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)NC(C)C1=CC=CC=C1 | C24H25N7
reactant | formaldehyde | 2.3 mmol, 0.17 mL | C=O | CH2O
solvent | methanol | 3 mL | CO | CH4O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-{4-[5-(5-Methyl-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | CN1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C25H27N7
